US07030128B2
To a degassed solution of 3-(6-bromopyridin-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine (200 mg, 0.58 mmol), 2-cyanophenylboronic acid (172 mg, 1.16 mmol) and potassium phosphate (370 mg, 1.75 mmol) in N,N-dimethylacetamide (4 ml) was added tetrakis(triphenylphosphine)paladium(0) (33.8 mg, 29.2 μmol) and the reaction heated at 80° C. for 18 h. After cooling to ambient temperature the reaction was poured onto a cartridge of strong cation-exchange resin and non-basic impurities removed by elution with methanol. The product was then eluted with a 2M solution of ammonia in methanol and evaporated to give an orange oil. This residue was purified by silica gel chromatography eluting with isohexane on a gradient of ethyl acetate (20-60%) to give a solid. Crystallisation from ethyl acetate-dichloromethane gave 2-[6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]benzonitrile (26 mg) as a white solid: δH (400 MHz, CDCl3) 7.38 (1H, d, J 7),7.61 (2H, m), 7.78 (2H, m), 7.91 (2H, m), 7.99 (1H, dd, J 9 and 9), 8.58 (1H, s), 10.62 (1H, d, J 9); m/z (ES+) 366 (M++H).

reactant | 3-(6-bromopyridin-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine | 0.58 mmol, 200 mg | BrC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C12H6BrF3N4
reactant | 2-cyanophenylboronic acid | 1.16 mmol, 172 mg | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | potassium phosphate | 1.75 mmol, 370 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | 2-[6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]benzonitrile | 26 mg | FC(C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)C2=C(C#N)C=CC=C2)(F)F | C19H10F3N5
